US04525476
A solution of 5.0 g (0.03 mol) L-proline methyl ester hydrochloride is dissolved in 30 ml of dichloromethane. The solution is cooled to 0° C. and 4.42 ml (0.032 mol) triethylamine is added dropwise over a ten minute period. The mixture is stirred 15 minutes and a mixture of the following is added in a single addition: 6.85 g (0.033 mol) of dicyclohexylcarbodiimide; 200 mg (0.0016 mol) of 4-dimethylaminopyridine; 4.71 g (0.03 mol) of 5-oxo-2-pyrrolidinepropanoic acid. The reaction is allowed to warm to room temperature and stirred for 24 hours. The solids are removed by filtration and are washed with 15 ml of 0° C. dichloromethane. The filtrate is concentrated at reduced pressure to an oil. The oil is chromatographed over silica gel using 12:1 dichloromethanemethanol for elution. Concentration at reduced pressure followed by heating at 0.1 mm pressure and 60° C. yields 1-[1-oxo-3-(5-oxo-2-pyrrolidinyl)propyl]-L-proline, methyl ester as an analytically pure oil (0.55 hydrate) with the following characteristic proton NMR spectrum: 1H-NMR (CDCL3) 1.6-2.5 (m, 14H), 3.4-3.85 (m, 2H), 3. (s, 3H), 4.5 (m, 1H), 6.37 (m, 1H).

reactant | L-proline methyl ester hydrochloride | 0.03 mol, 5.0 g | Cl.COC([C@H]1NCCC1)=O
reactant | triethylamine | 0.032 mol, 4.42 ml | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylcarbodiimide | 0.033 mol, 6.85 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 5-oxo-2-pyrrolidinepropanoic acid | 0.03 mol, 4.71 g | O=C1CCC(N1)CCC(=O)O | C7H11NO3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.0016 mol, 200 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-[1-oxo-3-(5-oxo-2-pyrrolidinyl)propyl]-L-proline, methyl ester | O=C(CCC1NC(CC1)=O)N1[C@H](C(=O)OC)CCC1 | C13H20N2O4
